US08067445B2
Step 1: 4-Chlorobenzyl Chloroformate
Prepared according to the procedure described in Example 56, Step 1, using the following starting materials: 4-chlorobenzyl alcohol and phosgene (20% in toluene).

reactant | 4-chlorobenzyl alcohol | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 4-Chlorobenzyl Chloroformate | ClC(=O)OCC1=CC=C(C=C1)Cl | C8H6Cl2O2
